US06927221B2
3-Benzyl-1-(1-ethylpropyl)-6-mesityl-4,7-dimethyl-2,3-dihydro-1H-pyrazolo[5,1-b]purin-2-one
Sodium hydride (28 mg, 0.71 mmol) was added to a solution of 1-(1-ethylpropyl)-6-mesityl-4,7-dimethyl-2,3-dihydro-1H-pyrazolo[5,1-b]purin-2-one (230 mg, 0.59 mmol) in N,N-dimethylformamide (5 mL) at room temperature. After 30 minutes, benzyl bromide (0.079 mL, 0.65 mmol) was added, followed by stirring at 70′ for one hour. Water was added under ice-cooling, followed by extracting with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (15-20% ethylacetate/hexane), to give the title compound (259 mg) as brown crystals.

reactant | Sodium hydride | 0.71 mmol, 28 mg | [H-].[Na+]
reactant | 1-(1-ethylpropyl)-6-mesityl-4,7-dimethyl-2,3-dihydro-1H-pyrazolo[5,1-b]purin-2-one | 0.59 mmol, 230 mg | C(C)C(CC)N1C=2N3C(N=C(C2NC1=O)C)=C(C(=N3)C)C3=C(C=C(C=C3C)C)C | C23H29N5O
reactant | benzyl bromide | 0.65 mmol, 0.079 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-Benzyl-1-(1-ethylpropyl)-6-mesityl-4,7-dimethyl-2,3-dihydro-1H-pyrazolo[5,1-b]purin-2-one | 259 mg | C(C1=CC=CC=C1)N1C(N(C=2N3C(N=C(C12)C)=C(C(=N3)C)C3=C(C=C(C=C3C)C)C)C(CC)CC)=O | C30H35N5O
